US04459416
1-Chloro-3-bromopropane (104.0 g), ethanol (250 ml), and water (90 ml) were stirred under reflux, and a solution of sodium sulphite (25.0 g) in distilled water (90 ml) was added to the stirred refluxing reaction mixture over a period of two hours. After the addition, refluxing was continued for a further 2 hours after which the excess alcohol and 1-chloro-3-bromopropane were removed by distillation. The remaining aqueous solution was evaporated to dryness on a steam bath and the product was recrystallised from alcohol to yield sodium 3-chloro-propane-sulphonate as a white crystalline solid.

reactant | 1-Chloro-3-bromopropane | 104.0 g | ClCCCBr | C3H6BrCl
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | sodium sulphite | 25.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 90 ml | O | H2O
solvent | water | 90 ml | O | H2O
product | sodium 3-chloro-propane-sulphonate | ClCCCS(=O)(=O)[O-].[Na+] | InChI=1S/C3H7ClO3S.Na/c4-2-1-3-8(5,6)7;/h1-3H2,(H,5,6,7);/q;+1/p-1
